US04025538
Preparation of N-Isopropyl-3,4-dimethyl-2,6-dinitroaniline
4-Chloro-3,5-dinitro-o-xylene (10.0 grams, 0.043 mole) and i-propylamine (10.1 grams, 0.17 mole) are mixed and refluxed for 12 hours using an efficient reflux condenser. The mixture is then cooled and poured into 100 ml. of 5% hydrochloric acid and extracted with diethyl ether. The ether extract is dried over magnesium sulfate. Removal of the drying agent and solvent leaves an orange oil which readily solidifies. The product is recrystallized from methanol to give 8.7 grams (80%) of an orange solid with melting point 69° C. to 70° C.

reactant | 4-Chloro-3,5-dinitro-o-xylene | 0.043 mole, 10.0 grams | ClC=1C(=C(C(=CC1[N+](=O)[O-])C)C)[N+](=O)[O-] | C8H7ClN2O4
reactant | i-propylamine | 0.17 mole, 10.1 grams | C(C)(C)N | C3H9N
product | N-Isopropyl-3,4-dimethyl-2,6-dinitroaniline | 8.7 grams, 80% | C(C)(C)NC1=C(C(=C(C=C1[N+](=O)[O-])C)C)[N+](=O)[O-] | C11H15N3O4
